US08071774B2
f) 4-(1-Benzyl-1H-imidazol-4-yl)-7-methoxychromen-2-one
A mixture of 1 mmol of ethyl 3-(1-benzyl-1H-imidazol-4-yl)-3-oxopropionate and 1 mmol of 3-methoxyphenol [150-19-6] is admixed dropwise at 0° C. with 0.5 ml of concentrated sulphuric acid. 0.25 ml of phosphoryl chloride is added and the reaction mixture is stirred at room temperature for 17 hours. It is poured into a 1:1 mixture of ice and saturated, aqueous sodium hydrogen carbonate solution and extracted with chloroform (3×). The combined organic phases are dried over sodium sulphate and evaporated. From the residue the title compound is identified by means of flash chromatography (SiO2 60F) on the basis of the Rf value.

reactant | ethyl 3-(1-benzyl-1H-imidazol-4-yl)-3-oxopropionate | 1 mmol | C(C1=CC=CC=C1)N1C=NC(=C1)C(CC(=O)OCC)=O | C15H16N2O3
reactant | 3-methoxyphenol | 1 mmol | COC=1C=C(C=CC1)O | C7H8O2
reactant | sulphuric acid | 0.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | phosphoryl chloride | 0.25 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-(1-Benzyl-1H-imidazol-4-yl)-7-methoxychromen-2-one | C(C1=CC=CC=C1)N1C=NC(=C1)C1=CC(OC2=CC(=CC=C12)OC)=O | C20H16N2O3
